data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4950,5636,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[O:17][C:18]1([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,14.858970650569644,-30.52732615064008
4083,4676,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([CH3:12])[O+:13]=[C:14]([CH3:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([CH3:12])[O:13][C:14]1([CH3:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,18.634677200934924,-32.56910320671309
4848,5530,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[NH+:13][C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[NH:13][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[CH3:12],water,298.15,37.16594842009224,-6.143713144110384
2458,2726,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([C:13]#[N:14])([C:15]#[N:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[C:24]#[N+:25][C-:26]([C:27]([CH3:28])=[O:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]#[N:14])([C:15]#[N:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:24]([C:22]([CH3:21])=[O:23])=[N:25][C:26]2([C:27]([CH3:28])=[O:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,8.980797172829636,-50.88119566599178
3112,3503,[CH3:10][C:11]#[N+:12][C-:13]([CH3:14])[CH3:15].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:11]([CH3:10])=[N:12][C:13]1([CH3:14])[CH3:15],water,298.15,14.952161954884328,-41.24408725865249
2473,2741,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][CH:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][N-:24][NH+:25]=[C:26]([C:27](=[O:28])[NH:29][CH3:30])[C:31](=[O:32])[O:33][CH3:34]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([CH:12]([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[CH2:19][CH2:20][CH2:21][CH2:22]1)[N:24]([CH3:23])[NH:25][C:26]2([C:27](=[O:28])[NH:29][CH3:30])[C:31](=[O:32])[O:33][CH3:34],water,298.15,16.929143642484764,-24.15006619096827
3107,3497,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[c:8]1[o:9][c:10](=[O:11])[c-:12]([CH3:13])[n+:14]1[CH3:15]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:12]2([CH3:13])[C:10](=[O:11])[O:9][C:8]1([C:6]([CH3:5])=[O:7])[N:14]2[CH3:15],water,298.15,24.104434101557,-7.100974894554603
1727,1912,[CH3:20][NH:21][C:22](=[O:23])[N:24]=[O+:25][N-:26][C:27]([CH3:28])=[O:29].[cH:1]1[cH:2][cH:3][c:4]([C:5]2=[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH:13]3[CH2:14][CH2:15][CH:16]2[CH2:17]3)[cH:18][cH:19]1>>[cH:1]1[cH:2][cH:3][c:4]([C:5]23[C:6]([c:7]4[cH:8][cH:9][cH:10][cH:11][cH:12]4)([CH:13]4[CH2:14][CH2:15][CH:16]2[CH2:17]4)[N:26]([C:27]([CH3:28])=[O:29])[O:25][N:24]3[C:22]([NH:21][CH3:20])=[O:23])[cH:18][cH:19]1,water,298.15,1.91380581584812,-51.5399777679749
742,804,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][O-:20])[C:21]([CH3:22])=[O:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([C:21]([CH3:22])=[O:23])[NH:19][O:20]3,water,298.15,19.8902498921781,-20.53837972899253
814,882,[CH3:15][NH:16][C:17](=[O:18])[C:19]#[N+:20][N-:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[c:6]2[c:7]([n:21]([C:22]#[N:23])[n:20][c:19]2[C:17]([NH:16][CH3:15])=[O:18])[C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1,water,298.15,11.591410968913516,-82.43140471808302
212,232,[CH3:11][O:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]#[N:18].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([O:12][CH3:11])=[O:14])([CH3:16])[N:17]=[N:18]2,water,298.15,27.51904310992895,-16.37794217795326
1126,1224,[CH3:13][CH:14]=[N+:15]([CH3:16])[C-:17]([C:18]#[N:19])[C:20](=[O:21])[NH:22][CH3:23].[CH3:1][C:2]1([Cl:3])[C:4]#[C:5][C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([Cl:3])[C:4]2=[C:5]([C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:18]#[N:19])([C:20](=[O:21])[NH:22][CH3:23])[N:15]([CH3:16])[CH:14]2[CH3:13],water,298.15,18.65919633728156,-43.47568079644803
